US07390925B2
Step E: (E)-N-((4-acetamido-3,5-dichlorobenzylamino)-(amino)methylene)-3-(isobutoxyimino)-3-(4-methoxyphenyl)propanamide
A mixture of (E)-tert-butyl (4-acetamido-3,5-dichlorobenzylamino)(3-(4-methoxyphenyl)-3-oxopropanamido)methylenecarbamate (6 mg) and O-isobutylhydroxylamine hydrochloride (3 mg) in ethanol (0.1 mL) was heated at 80° C. for 2 h. Ethanol was removed in vacuo and the crude mixture was purified by reverse phase HPLC (30×100 mm PHENOMENEX-LUNA S10 column, 10-90% methanol/H2O/0.1% TFA) to give the title compound as a clear sticky oil.

reactant | (E)-tert-butyl (4-acetamido-3,5-dichlorobenzylamino)(3-(4-methoxyphenyl)-3-oxopropanamido)methylenecarbamate | 6 mg | C(C)(=O)NC1=C(C=C(CN/C(/NC(CC(=O)C2=CC=C(C=C2)OC)=O)=N\C(OC(C)(C)C)=O)C=C1Cl)Cl | C25H28Cl2N4O6
reactant | O-isobutylhydroxylamine hydrochloride | 3 mg | Cl.C(C(C)C)ON
solvent | ethanol | 0.1 mL | C(C)O | C2H6O
product | (E)-N-((4-acetamido-3,5-dichlorobenzylamino)-(amino)methylene)-3-(isobutoxyimino)-3-(4-methoxyphenyl)propanamide | C(C)(=O)NC1=C(C=C(CNC(=NC(C\C(\C2=CC=C(C=C2)OC)=N/OCC(C)C)=O)N)C=C1Cl)Cl | C24H29Cl2N5O4
